US04264460
This is lactonized-2-octadecenyl succinic acid which is prepared as follows: A half mole (175 g) of 2-octadecenyl succinic anhydride and 0.55 mole (10 g) of water were mixed and heated in a reaction flask for a half hour at 80° C. Infrared analysis showed that complete conversion of the anhydride to succinic acid had occurred. While stirring at 80° C., 0.5 g of concentration sulfuric acid was added, and the reaction temperature was increased to 130°-140° C. Heating at 140° C. for 1.5 hours completely converted the di-carboxylic acid to the desired lactone acid products. When the cooled mixture was diluted with ether, a white solid separated from solution. Infrared analysis of the isolated solids revealed the presence of a 5-ring lactone acid (strong bands at 5.67 and 5.82 microns). Cooling the supernatant gave more solids. Further fractional crystallization of later crops afforded 6-ring lactone acid products. The combined weight of all crops revealed that the yield of lactone acid product was quantitative. A recrystallized sample of 5-ring lactone product melted at 112° C. and analyzed for 71.50% carbon, 10.77% H and 16.67% oxygen. Theory requires 71.49% C, 11.18% H, and 17.32% O.

reactant | 2-octadecenyl succinic anhydride | 175 g | C(=CCCCCCCCCCCCCCCCC)C1C(=O)OC(C1)=O | C22H38O3
reactant | water | 0.55 mole, 10 g | O | H2O
reactant | succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
product | 2-octadecenyl succinic acid | C(=CCCCCCCCCCCCCCCCC)C(C(=O)O)CC(=O)O | C22H40O4
